US04232016
To 5.4 g. of 1,4,7,10,13,16-hexaoxacyclooctadecane dissolved in 50 ml. of dry acetonitrile is added, with stirring, 1.4 g. of anhydrous KF. After 30 minutes, 4.95 g. of 1-cyclopropylmethyl-3-p-toluenesulfonyloxy-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one, obtainable by tosylation of the 3-hydroxy compound, in 50 ml. of dry acetonitrile are added. The mixture is stirred for 2 hours more and is worked up in the customary manner to give 1-cyclopropylmethyl-3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one.

reactant | 1,4,7,10,13,16-hexaoxacyclooctadecane | O1CCOCCOCCOCCOCCOCC1 | C12H24O6
reactant | KF | [F-].[K+]
reactant | 1-cyclopropylmethyl-3-p-toluenesulfonyloxy-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | C1(CC1)CN1C(C(N=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)OS(=O)(=O)C2=CC=C(C=C2)C)=O | C26H23ClN2O4S
solvent | acetonitrile | C(C)#N | C2H3N
product | 1-cyclopropylmethyl-3-fluoro-5-phenyl-7-chloro-2,3-dihydro-1H-1,4-benzodiazepin-2-one | C1(CC1)CN1C(C(N=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)F)=O | C19H16ClFN2O
